US06355653B1
A solution of 0.18 g (0.001 mol) 5-phenyl-1H-1,2,4-triazole-3-acetonitrile in 7 ml tetrahydrofuran was treated at −70° C. with 1.56 ml (0.0025 mol) butyllithium (1.6 M in hexane). After one hour 0.21 g (0.001 mol) 3-bromo-3-phenyl-2-propenenitrile was added, stirring was continued for one hour, the mixture warmed to room temperature over night and water was added. Extraction with diethylether, chromatography on silicagel with dichloromethane/methanol 99/1 and crystallisation from diethylether gave 3.6 mg 5-amino-2,7-diphenyl-[1,2,4]triazolo[1,5-a]pyridine-8-carbonitril as white cystals. MS m/e (%): 312 (M+H+, 100).

reactant | 5-phenyl-1H-1,2,4-triazole-3-acetonitrile | 0.001 mol, 0.18 g | C1(=CC=CC=C1)C1=NC(=NN1)CC#N | C10H8N4
reactant | butyllithium | 0.0025 mol, 1.6 M, 1.56 ml | C(CCC)[Li]
reactant | 3-bromo-3-phenyl-2-propenenitrile | 0.001 mol, 0.21 g | BrC(=CC#N)C1=CC=CC=C1 | C9H6BrN
reactant | water | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 5-amino-2,7-diphenyl-[1,2,4]triazolo[1,5-a]pyridine-8-carbonitril | 3.6 mg | NC1=CC(=C(C=2N1N=C(N2)C2=CC=CC=C2)C#N)C2=CC=CC=C2 | C19H13N5
